US04716167
A suspension consisting of ethyl 2-amino-7-(1-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine-3-carboxylate (37.3 g), ethanol (2.3 l) and 0.5N sodium hydroxide (620 ml) was stirred at 50° C. for 2 hours, then ethancl was evaporated off. The concentrate was acidified with hydrochloric acid (pH 3-4), then the resulting precipitates were collected by filtration and washed with water, followed by recrystallization from dimethylformamide-water. The crystals were washed with ethanol to give 2-amino-7-(1-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine-3-carboxylic acid (32.5 g).

reactant | ethyl 2-amino-7-(1-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine-3-carboxylate | 37.3 g | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(C)(C)O)C(=O)OCC | C18H18N2O5
reactant | sodium hydroxide | 0.5N, 620 ml | [OH-].[Na+]
solvent | ethanol | 2.3 l | C(C)O | C2H6O
product | 2-amino-7-(1-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine-3-carboxylic acid | 32.5 g | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(C)(C)O)C(=O)O | C16H14N2O5
